US06620831B2
75-2) Synthesis of methyl 2-[4-(2-[(benzyloxy)carbonyl]aminoethoxy)phenyl]acetate
950 mg(4.87 mmol) of the compound obtained in Example 75-1 and 809 mg(4.87 mmol) of 4-hydroxyphenylacetic acid methyl ester were dissolved in 70 ml of tetrahydrofuran, and then 0.84 ml(5.35 mmol) of diethylazodicarboxylate and 1.4 g(5.35 mmol) of triphenylphosphine were added thereto. The mixture was stirred at room temperature for one hour. After the reaction was completed, the solvent was removed under reduced pressure. Addition of 40 ml of diethyl ether to the residue caused precipitation. The mixture was stirred for 30 minutes and filtered. The filtrate was purified by silica gel column chromatography to give 1.28 g(3.73 mmol) of the title compound in a yield of 77%.

reactant | 4-hydroxyphenylacetic acid methyl ester | 4.87 mmol, 809 mg | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
reactant | diethylazodicarboxylate | 5.35 mmol, 0.84 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 5.35 mmol, 1.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | methyl 2-[4-(2-[(benzyloxy)carbonyl]aminoethoxy)phenyl]acetate | 3.73 mmol, 1.28 g, yield of 77% | C(C1=CC=CC=C1)OC(=O)NCCOC1=CC=C(C=C1)CC(=O)OC | C19H21NO5
